US04643990
A mixture of dibenzyl N-(N-butanoyl-L-valyl)-L-glutamate (613 mg) and palladium black (50 mg) in methanol (50 ml) was subjected to catalytic hydrogenation under atmospheric pressure. After the reaction mixture was filtered, the filtrate was concentrated under reduced pressure to give a residue which was recrystallized from petroleum ether to afford N-(N-butanoyl-L-valyl)-L-glutamic acid as crystals (343 mg).

reactant | dibenzyl N-(N-butanoyl-L-valyl)-L-glutamate | 613 mg | C(CCC)(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CCC(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C28H36N2O6
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium black | 50 mg | [Pd] | Pd
product | N-(N-butanoyl-L-valyl)-L-glutamic acid | 343 mg | C(CCC)(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CCC(=O)O)C(=O)O | C14H24N2O6
